US07943774B2
3-(3,4-Dimethoxyphenyl)-1-{4-[4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidin-1-yl}propan-1-one (I-66)
4-[4-(2-Phenylethyl)-1,3-thiazol-2-yl]piperidine hydrochloride (II-1, 309 mg) is reacted analogously to Example I-63 with 3-(3,4-dimethoxyphenyl)propanoic acid (231 mg). After chromatographic purification, this gives 3-(3,4-dimethoxyphenyl)-1-{4-[4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidin-1-yl}propan-1-one (139 mg).

reactant | 4-[4-(2-Phenylethyl)-1,3-thiazol-2-yl]piperidine hydrochloride | 309 mg | Cl.C1(=CC=CC=C1)CCC=1N=C(SC1)C1CCNCC1
reactant | 3-(3,4-dimethoxyphenyl)propanoic acid | 231 mg | COC=1C=C(C=CC1OC)CCC(=O)O | C11H14O4
product | 3-(3,4-Dimethoxyphenyl)-1-{4-[4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidin-1-yl}propan-1-one | COC=1C=C(C=CC1OC)CCC(=O)N1CCC(CC1)C=1SC=C(N1)CCC1=CC=CC=C1 | C27H32N2O3S
